Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Inability to tolerate POs. Progressive cognitive decline.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ with history of Alzheimer's dementia, 
recent diagnosis of DVT on Eliquis, MI s/p quadruple bypass on 
digoxin, and CVA who presents with progressive cognitive decline 
and failure to tolerate POs. 
He has been at ___ Care ___ in the ___ 
unit, where he has his own space but receives nursing assistance 
for medications and is also supervised while eating (although he 
eats by himself). He was brought to ___ by his son 
(previously living alone at home) because he was no longer able 
to perform ADLs as he would forget to eat/shower etc. At 
___, staff say that he eats food by himself; particularly, 
he eats finger foods because he has difficulty manipulating 
utensils given his severe rheumatoid arthritis. He was also 
tolerating all PO meds well. He also is a "wanderer" and walks 
around a lot by himself (supervised). At baseline, he is 
minimally communicative, although he does respond to simple 1 
word commands. Overnight on ___, he was noted to be yelling, 
which his nurse (___) says is his normal way of expressing 
pain. The next morning he refused to get out of bed which was 
unusual for him. He was also groaning in pain which she thinks 
was in his right leg and chronic arthritic pain. He refused to 
eat food or medications on ___ and simply stared at it. Even 
with assistance from staff, he refused. They did not note any 
secretions or evidence of pain when swallowing. His nurse also 
states that their staff thought he had R sided facial droop 
around 6pm yesterday. 

He has not had any recent fevers. Other than his increased 
moaning, he has not complained of other symptoms over this time 
period. He is incontinent to stool and urine at baseline.

 
Past Medical History:
Rheumatoid arthritis
History of MI ___ years ago), s/p quadruple bypass
H/o CVA
Testicular cancer s/p surgery
H/o several nerve blocks for back pain
H/o GI ulcers 
HTN
 
Social History:
___
Family History:
history of Cancer, diabetes
 
Physical Exam:
ON ADMISSION:
VITALS:  T 98.1, afebrile HR 73 (64-73), BP 145/68 
(145-163)/(65-72) RR 16 O2 sat 97-100% on RA
GENERAL: A&O x0. Says "hi" when greeted. Otherwise nonverbal. 
Responds to command to squeeze fingers. 
Neuro: CN- Pupils round, equal and reactive. Other CN difficult 
to assess due to poor participation. 
HEENT: Sclerae anicteric, poor dentition
NECK: Supple, no tender lymphadenopathy 
RESP: Anterior exam. No respiratory distress. Poor air movement 
but clear to auscultation bilaterally. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: Normoactive bowel sounds. Nondistended, nontender to deep 
palpation. 
GU: no foley  
EXT: warm, well perfused. RLE > LLE. RLE nontender to palpation. 
Ulnar deviation on b/l hands. Arms flexed at elbows, and 
resisting extension. 

ON DISCHARGE:
Vitals:  T 97.7 HR 71 (59-71) BP 130/64 (130-183)/(59-76) RR 
___ O2 sat 100% on RA
Exam:  
GENERAL: A&O x0. Sleeping comfortably in bed
Neuro: Difficulty following verbal commands, but able to follow 
visual commands to mimic actions (close eyes, open mouth, turn 
head to different sides). Pupils round, equal and reactive. 
Other CN difficult to assess due to poor participation. Eyes 
track past midline. Reflexes not assessed. 
HEENT: Sclerae anicteric, poor dentition
NECK: Supple, no tender lymphadenopathy 
RESP: Anterior exam. No respiratory distress. CTAB
CV: Regular rate and rhythm w/ frequent extra beats, normal S1 + 
S2, ___ systolic murmur unchanged.
ABD: Hypoactive bowel sounds. Nondistended. Groans on deep 
palpation.
GU: no foley  
EXT: warm, well perfused. Atrophied. 
 
Pertinent Results:
On Admission:
___ 03:00PM BLOOD WBC-7.4 RBC-3.20* Hgb-9.2* Hct-27.8* 
MCV-87 MCH-28.8 MCHC-33.1 RDW-14.2 RDWSD-45.0 Plt ___
___ 03:00PM BLOOD Neuts-81.2* Lymphs-7.9* Monos-8.8 Eos-1.2 
Baso-0.4 Im ___ AbsNeut-5.96# AbsLymp-0.58* AbsMono-0.65 
AbsEos-0.09 AbsBaso-0.03
___ 03:00PM BLOOD Plt ___
___ 03:00PM BLOOD ___ PTT-35.9 ___
___ 03:00PM BLOOD Glucose-95 UreaN-28* Creat-1.4* Na-138 
K-4.2 Cl-104 HCO3-26 AnGap-12
___ 03:00PM BLOOD ALT-10 AST-29 AlkPhos-72 TotBili-0.3
___ 03:00PM BLOOD Albumin-3.5 Calcium-8.9 Phos-3.9 Mg-2.4
___ 07:10AM BLOOD VitB12-499
___ 07:10AM BLOOD TSH-3.6
___ 03:00PM BLOOD Digoxin-0.4*
___ 03:18PM BLOOD Lactate-2.1*

On Discharge: Not checked on discharge
on ___ 07:27AM BLOOD WBC-4.7 RBC-3.42* Hgb-9.5* Hct-29.6* 
MCV-87 MCH-27.8 MCHC-32.1 RDW-14.3 RDWSD-44.8 Plt ___
___ 07:27AM BLOOD Glucose-69* UreaN-17 Creat-1.2 Na-135 
K-4.2 Cl-97 HCO3-21* AnGap-21*
___ 07:27AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.0

Pertinent results:
___ 07:10AM BLOOD VitB___-___
___ 07:10AM BLOOD TSH-3.6

Imaging:
___ Chest X ___:
Persistent mild prominence of the ascending aorta.  Mild left 
base 
atelectasis.  No focal consolidation to suggest pneumonia. 

___ CT head w/o contrast:
There is no evidence of acute intracranial hemorrhage, midline 
shift, mass 
effect, or acute large vascular territorial infarct.  The 
ventricles and sulci are enlarged suggesting age related 
atrophy.  Periventricular white matter hypodensities are 
nonspecific but likely sequela of chronic small vessel disease.  
Bilateral basal ganglia lacune or infarcts are seen. 
  
There is no evidence of acute fracture.  There is mild mucosal 
thickening in the maxillary and ethmoid air cells.  The 
remainder of the paranasal sinuses are clear.  There have been 
lens replacement bilaterally. 

___ ___:
1. No evidence of deep venous thrombosis in the right lower 
extremity veins. 
2. Near occlusive thrombus of the right greater saphenous vein, 
a superficial vessel, also seen on ___.  Compared to 
prior there may be mild increase in flow within this vessel. 

___ MRI head:
1. No evidence of infarct or hemorrhage. 
2. Prominent global atrophy. 
3. Nonspecific white matter changes in a configuration 
suggestive of chronic small vessel ischemic disease. 

 
Brief Hospital Course:
Mr. ___ is a ___ with history of Alzheimer's dementia, 
recent diagnosis of superficial RLE thrombosis on Eliquis, MI 
s/p quadruple bypass, afib on digoxin due to h/o massive GI 
bleed, and CVA who presented with progressive cognitive decline 
and failure to tolerate POs. 
Initially, reversible causes for dementia were ruled out. An 
infectious workup was conducted, and urine culture was positive 
for E. coli and therefore treated with IV Ceftriaxone for 5 
days. The overall presentation was thought to be most concerning 
for progressive end stage dementia. A goals of care conversation 
with his son and healthcare proxy guided decision-making to not 
pursue placement of a G-tube. He was discharged to ___ 
rehabilitation, per recommendations from physical therapy. Dr. 
___ primary care doctor, has agreed to continue the 
goals of care discussion, specifically around his code status, 
after discharge.

#Inability to tolerate POs: This was thought to be either due to 
transient delirium, progression of dementia and resulting 
disinterest in eating, or more mechanical causes such as 
dysphagia or odynophagia. Given appropriate management of 
secretions, obstruction was felt to be unlikely. Speech and 
swallow evaluated Mr. ___, and felt that there was no 
concern for a mechanical process. Transient delirium in the 
setting of a UTI was possible, although unlikely given no 
resolution of symptoms after antibiotic treatment. This was felt 
to therefore be most likely disinterest in eating due to 
progression of end stage dementia. His willingness to take small 
amounts of POs with his son feeding him suggested that 
reorientation and familiar people/environments were helping.

#Progressive cognitive decline, Goals of care: Acute causes of 
cognitive decline, including MI or PE, were rule out (no EKG 
changes, no tachycardia, evidence of RH strain, or respiratory 
distress). LENIs showed interval improvement in superficial RLE 
thrombosis. A stroke or vascular dementia were ruled out given 
negative NCHCT, and then negative head MRI. Reversible dementia 
was ruled out with normal B12, RPR, and TSH levels. Transient 
delirium in the setting of infection was postulated, but CXR was 
negative. UA was negative, but a urine culture showed >100,000 
colonies of E. coli. Although he is incontinent to urine and 
stool, this was treated as a complicated UTI due to his 
worsening mental status with IV Ceftriaxone x5 days with some 
improvement in his mental status. Electrolytes were consistently 
within normal limits. Digoxin level was 0.4. This was held on 
admission, and stopped at discharge in consultation with his 
PCP, as he was in sinus rhythm and the risks were felt to 
outweigh the benefits. Geriatrics was consulted, and agreed with 
the workup and recommendations. A goals of care discussion with 
his son and healthcare proxy resulted in no G-tube consideration 
and understanding about the prognosis. He expressed considerable 
insight and understanding into his father's condition, and felt 
that he may soon end up at hospice. He also felt that 
intubation, chest compressions, and shock would be very 
traumatic, and likely not in line with his father's current 
goals of care. However, he strongly felt that his father would 
have wanted to be "given a chance," and felt that he needed more 
time to think about changing his father from Full code to 
DNR/DNI. So, he was discharged to ___ rehab, Full code, 
with plans for Dr. ___ to continue the discussion about his 
code status (per conversation with Dr. ___. He was continued 
on his home dose of Namenda at discharge.

#RLE superficial thrombosis: he was on home Eliquis (last dose 
___. However, he was not tolerating POs while admitted, and 
was unable to take this medication although it was continued. 
This was discontinued at discharge, in consultation with his 
PCP, as the risks of bleeding given high fall risk were felt to 
outweigh the benefits of anticoagulation for low-risk 
superficial thrombus.

#Hypertension: Blood pressures were within SBP 130-160, with 
occasional episodes to 180. Toprol was switched to Metoprolol to 
allow for crushing pills in puree, but he rarely was able to 
take these. This was continued at discharge.
 
#CHF, afib: Digoxin was held on admission given the uncertain 
indication (outpatient records not available). Ultimately, it 
was learned that he has a history of afib, and major bleeding on 
anticoagulation, thus on digoxin. He was in sinus rhythm, so 
this was held and discontinued on discharge.

He was discharged to an ___ rehab facility.

TRANSITIONAL ISSUES:
1) Hospice: Please consider consulting palliative care/hospice 
during ___ rehab, given his son's suggestion that this may 
be the appropriate next step.
2) After discussion with the patient's primary care doctor, his 
digoxin and apixaban were discontinued as the risks of these 
medications were thought to outweight the benefits. As goals of 
care conversations continue, may consider discontinuation of 
metoprolol and/or memantine as well.

-CODE: full
-CONTACT: son, (HCP) ___ ___, ___ 
___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Memantine 5 mg PO BID 
3. Digoxin 0.125 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Metoprolol Tartrate 12.5 mg PO BID  
2.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
3.  Memantine 5 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___     
 
Discharge Diagnosis:
PRIMARY: E. coli urinary tract infection; Alzheimer's Dementia; 
end stage dementia.
SECONDARY: Hypertension; atrial fibrillation; congestive heart 
failure.
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your recent 
hospitalization at the ___. You 
came to the hospital from the ___ facility because you were 
having a difficult time eating food and became less responsive 
to people around you. You were evaluated from causes that might 
explain this. You were found to have a mild urinary tract 
infection which was treated with antibiotics. Imaging of your 
head was not concerning for a stroke. However, it was thought 
that your Alzheimer's dementia may be progressively worsening, 
making your appetite less than normal. Geriatrics became 
involved in your care during your hospitalization. Along with 
your son, we discussed whether you needed a feeding tube placed. 
However, the decision was made that this would be a high risk 
procedure, and the benefits would not outweigh the risks. 
Physical therapy recommended that you go to an ___ 
rehabilitation facility to become stronger and to receive the 
care that you would need to hopefully be able to return to a 
nursing home or other assisted living facility in the future.

Please follow up with Dr. ___ primary care physician, 
after completing ___ rehabilitation. He is aware of your 
hospitalization and updated about your condition.

With best wishes,
Your ___ team 
 
Followup Instructions:
___